US05215876
Preparation of Methyl 3-(4-Benzyloxy-3-Methoxyphenyl)-2-Cyano-2-Propenoate
A mixture of 4-(benzyloxy)-3-methoxybenzaldehyde (1.21 g, 0.005 mol), methyl cyanoacetate (0.50 g, 0.005 mol) methanol (10.0 mL) and piperidine (5 drops) is heated and stirred at reflux for 1 hour and cooled. The product, 3-(4-benzyloxy-3-methoxyphenyl)-2-cyano-2-propenoate is collected by filtration, washed with methanol and dried in air. The yield is 1.50 g (93%) of product having an absorption maximum at 364 nm in methylene chloride solution. The identity of the product is supported by mass spectrometry.

reactant | 4-(benzyloxy)-3-methoxybenzaldehyde | 0.005 mol, 1.21 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | methyl cyanoacetate | 0.005 mol, 10.0 mL, 0.50 g | C(#N)CC(=O)OC | C4H5NO2
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
product | Methyl 3-(4-Benzyloxy-3-Methoxyphenyl)-2-Cyano-2-Propenoate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=C(C(=O)OC)C#N)OC | C19H17NO4
